US08222274B2
A 21.7 mg portion of 2-bromo-1-(3-fluorophenyl)ethanone and 13.9 mg of methyl 3-oxobutanoate were dissolved in 1.0 ml of acetonitrile, and 115 mg of a 1,5,7-triazabicyclo[4.4.0]dec-5-ene-carrying resin (trade name: 1,5,7-Triazabicyclo[4.4.0]dec-5-ene bond to polystyrene crosslinked with 2% DBV, Fluka, Switzerland) was added, followed by stirring at room temperature for 3 hours. Then, the reaction liquid was filtered. By concentrating the filtrate under a reduced pressure, methyl 2-acetyl-4-(3-fluorophenyl)-4-oxobutanoate was obtained as a crude product. A 0.500 ml acetic acid solution of 21.1 mg of 4-fluorophenethylamine hydrochloride was added to the resulting crude product, followed by stirring overnight at 100° C. By evaporating the solvent under a reduced pressure, methyl 5-(3-fluorophenyl)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate was obtained as a crude product. The resulting crude product was dissolved in a mixed solvent of 0.500 ml tetrahydrofuran and 0.500 ml methanol, and 0.500 ml of a 2 M sodium hydroxide aqueous solution was added, followed by stirring overnight at 60° C. By adding 1 M hydrochloric acid to the reaction liquid at room temperature, the water layer was acidified, followed by extraction with chloroform. By evaporating the solvent of the organic layer under a reduced pressure, 5-(3-fluorophenyl)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid was obtained as a crude product. A 0.600 ml portion of a N,N-dimethylformamide solution of 24 mg 1,1′-carbonylbis-1H-imidazole was added to the resulting crude product and stirred at 50° C. for 2 hours. A solution prepared by adding 5.3 mg of guanidine hydrochloride to 0.400 ml N,N-dimethylformamide solution of 20 mg of sodium hydride (60% dispersion in oil) and stirring at room temperature for 30 minutes was added to this reaction liquid at room temperature, followed by stirring overnight at room temperature. The solvent was evaporated under a reduced pressure, and water was added to the residue, followed by extraction with chloroform. The solvent of the organic layer was evaporated under a reduced pressure, and the resulting residue was purified by a fractional high performance liquid chromatography (acetonitrile/a 0.1% trifluoroacetic acid aqueous solution) to obtain 3.7 mg of N-(diaminomethylene)-5-(3-fluorophenyl)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxamide.

reactant | 2-bromo-1-(3-fluorophenyl)ethanone | BrCC(=O)C1=CC(=CC=C1)F | C8H6BrFO
reactant | methyl 3-oxobutanoate | 13.9 mg | O=C(CC(=O)OC)C | C5H8O3
reactant | 1,5,7-triazabicyclo[4.4.0]dec-5-ene | 115 mg | N12CCCN=C2NCCC1 | C7H13N3
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
product | methyl 2-acetyl-4-(3-fluorophenyl)-4-oxobutanoate | C(C)(=O)C(C(=O)OC)CC(=O)C1=CC(=CC=C1)F | C13H13FO4
